spice
* SPICE Netlist for Given Schematic

V1 6 0 DC 0         ; Voltage source Vin
R1 6 1 1k           ; Resistor R1
R2 1 4 1k           ; Resistor R2
C1 2 3 1u           ; Capacitor C1
C2 6 0 1u           ; Capacitor C2

* Operational Amplifier (ideal model)
E1 5 0 4 0 100k     ; Voltage-controlled voltage source as op-amp

* Nodes
* 6: Vin positive terminal
* 0: Ground
* 1: Node between R1 and R2
* 2: Connected to feedback cap C1
* 3: Other side of feedback cap C1, and feedback to op-amp input
* 4: Inverting input of op-amp
* 5: Output of op-amp (Vout)

.END